US05731452
Using as the material and reagent a hydrogen fluoride-pyridine solution (0.3 ml) and methyl(11R,12S,13E,15S)-9-benzoyloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienoate (239 mg), the same procedure as in Example 2 was performed to obtain methyl(11R,13E,15S)-9-benzoyloxy-11,15-dihydroxy-7-thiaprosta-8,13-dienoate (144 mg, 86%).

reactant | hydrogen fluoride-pyridine | 0.3 ml | N1=CC=CC=C1.F
reactant | methyl(11R,12S,13E,15S)-9-benzoyloxy-11,15-bis(tert-butyldimethylsiloxy)-7-thiaprosta-8,13-dienoate | 239 mg | COC(CCCCCSC1=C(C[C@H]([C@@H]1\C=C\[C@H](CCCCC)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)OC(C1=CC=CC=C1)=O)=O | C39H66O6SSi2
product | methyl(11R,13E,15S)-9-benzoyloxy-11,15-dihydroxy-7-thiaprosta-8,13-dienoate | 144 mg, 86% | C(C1=CC=CC=C1)(=O)OC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O)\C=C\[C@H](CCCCC)O | C27H38O6S
